US06252084B1
[3-[[3-(2-Amino)-2-oxoethyl)-1-([1,1′-biphenyl]-2-ylmethyl)-2-methyl-1H-indol-5-yl]oxy]propyl]phosphonic acid. [3-[[3-(2-Amino-2-oxoethyl)-1-([1,1′-biphenyl]-2-ylmethyl)-2-methyl-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester (130 mg, 0.25 mmol) and 0.3 mL (3 mmol) of trimethylsilyl bromide in 2 mL of methylene chloride was stirred for 16 hours, 5 mL of MeOH added, stirred 0.75 hours and concentrated at reduced pressure. The residue was crystallized from EtOAc/MeCN/HOAc/water to give 41 mg (33% yield) of [3-[[3-(2-amino-2-oxoethyl)-1-([1,1′-biphenyl]-2-ylmethyl)-2-methyl-1H-indol-5-yl]oxy]propyl]phosphonic acid, mp, 200-202° C.

reactant | phosphonic acid | P(O)(O)=O | H3O3P
reactant | [3-[[3-(2-Amino-2-oxoethyl)-1-([1,1′-biphenyl]-2-ylmethyl)-2-methyl-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester | 0.25 mmol, 130 mg | COP(OC)(=O)CCCOC=1C=C2C(=C(N(C2=CC1)CC1=C(C=CC=C1)C1=CC=CC=C1)C)CC(=O)N | C29H33N2O5P
reactant | trimethylsilyl bromide | 3 mmol, 0.3 mL | C[Si](C)(C)Br | C3H9BrSi
reactant | MeOH | 5 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [3-[[3-(2-amino-2-oxoethyl)-1-([1,1′-biphenyl]-2-ylmethyl)-2-methyl-1H-indol-5-yl]oxy]propyl]phosphonic acid | 41 mg, 33% yield | NC(CC1=C(N(C2=CC=C(C=C12)OCCCP(O)(O)=O)CC1=C(C=CC=C1)C1=CC=CC=C1)C)=O | C27H29N2O5P
